US07135466B2
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl benzoate
Chlorobenzene (7 ml) was added to 4-chloro-6,7-dimethoxyquinazoline (2.5 g) and 4-hydroxyphenyl benzoate (4.78 g), and the mixture was stirred at 140° C. overnight. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform, followed by washing with saturated brine. The extract was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. Methanol was added to the residue, and the precipitated crystal was collected by filtration and was washed to give the title compound (3.49 g, yield 78%).

reactant | 4-chloro-6,7-dimethoxyquinazoline | 2.5 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 4-hydroxyphenyl benzoate | 4.78 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)O | C13H10O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | Chlorobenzene | 7 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl benzoate | 3.49 g, yield 78% | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C23H18N2O5
